US05721245
A solution of 150 mg of 3-[7-acetoxy-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)furan-2,5-dione in 6 ml of dimethylformamide and 6 ml of 33% aqueous ammonia was heated to 150° C. for 6 hours. The mixture was extracted with ethyl acetate and the organic extracts were washed with water, dried and evaporated. Crystallization of the residue from ethyl acetate gave 120 mg of 3-[6,7,8,9-tetrahydro-7-hydroxypyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione of melting point 252°-255° C.

reactant | 3-[7-acetoxy-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)furan-2,5-dione | 150 mg | C(C)(=O)OC1CCC=2N(C3=CC=CC=C3C2C=2C(OC(C2C2=CN(C3=CC=CC=C23)C)=O)=O)C1 | C27H22N2O5
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | ammonia | 6 ml | N | H3N
product | 3-[6,7,8,9-tetrahydro-7-hydroxypyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 120 mg | OC1CCC=2N(C3=CC=CC=C3C2C=2C(NC(C2C2=CN(C3=CC=CC=C23)C)=O)=O)C1 | C25H21N3O3
